US06664264B2
A round bottom flask was charged with a magnetic stir bar, 1-(2-chloroethyl)-1H-imidazo[4,5-c]quinolin-4-amine (2.0 g, 8.11 mmol), sodium benzenethiolate (1.79 g, 12.16 mmol), and anhydrous dimethyl sulfoxide (40 mL) under a nitrogen atmosphere. The reaction mixture was heated to 100° C. to give a homogeneous solution that was maintained at 100° C. for 30 minutes at which time the starting material was completely consumed. The hot solution was poured into rapidly stirred water (300 mL) which caused a solid to precipitate out of solution. The solid was collected by filtration to afford an off-white solid. The material was triturated with acetonitrile and collected by filtration to give 1-[2-(phenylthio)ethyl]-1H-imidazo[4,5-c]quinolin-4-amine (2.08 g, 6.49 mmol) as an off-white powder, m. p. 233-235° C.

reactant | 1-(2-chloroethyl)-1H-imidazo[4,5-c]quinolin-4-amine | 8.11 mmol, 2.0 g | ClCCN1C=NC=2C(=NC=3C=CC=CC3C21)N | C12H11ClN4
reactant | sodium benzenethiolate | 12.16 mmol, 1.79 g | C1(=CC=CC=C1)[S-].[Na+]
solvent | dimethyl sulfoxide | 40 mL | CS(=O)C | C2H6OS
product | 1-[2-(phenylthio)ethyl]-1H-imidazo[4,5-c]quinolin-4-amine | 6.49 mmol, 2.08 g | C1(=CC=CC=C1)SCCN1C=NC=2C(=NC=3C=CC=CC3C21)N | C18H16N4S
